US07902181B2
a) 5-Bromo-3-(2-methoxyethyl)benzo[d]thiazol-2(3H)-one
5-Bromobenzo[d]thiazol-2(3H)-one (1 g) and potassium carbonate (1.502 g) were stirred in DMF (7 mL) at room temperature and 1-bromo-2-methoxyethane (0.408 mL) was added. The mixture was stirred for 24 h. The mixture was poured onto water and extracted with ethyl acetate. The extracts were washed with dilute hydrochloric acid, water and brine then dried over sodium sulfate and evaporated. Purification by flash silica chromatography eluting with 10% ethyl acetate in isohexane afforded the subtitle compound as a colourless solid (0.73 g).

reactant | 5-Bromobenzo[d]thiazol-2(3H)-one | 1 g | BrC=1C=CC2=C(NC(S2)=O)C1 | C7H4BrNOS
reactant | potassium carbonate | 1.502 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-methoxyethane | 0.408 mL | BrCCOC | C3H7BrO
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-3-(2-methoxyethyl)benzo[d]thiazol-2(3H)-one | 0.73 g | BrC=1C=CC2=C(N(C(S2)=O)CCOC)C1 | C10H10BrNO2S
